US07528136B2
N-{(3S,5S)-1-Benzyl-5-[4-(2-cyano-phenyl)-piperazine-1-carbonyl]-pyrrolidin-3-yl}-3-chloro-benzamide
As described for Example 89e, 2-[4-(4-amino-1benzyl-pyrrolidine-2-carbonyl)-piperazin-1-yl]-benzonitrile (50.0 mg, 0.128 mmol) was converted, using 3-chloro-benzoyl chloride instead of 2-chloro-benzoyl chloride, to the title compound (4.3 mg, 6.4%) as light yellow oil. MS m/e=528.3 [M+H]+.

reactant | 2-[4-(4-amino-1benzyl-pyrrolidine-2-carbonyl)-piperazin-1-yl]-benzonitrile | 0.128 mmol, 50.0 mg | NC1CC(N(C1)CC1=CC=CC=C1)C(=O)N1CCN(CC1)C1=C(C#N)C=CC=C1 | C23H27N5O
reactant | 3-chloro-benzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
product | N-{(3S,5S)-1-Benzyl-5-[4-(2-cyano-phenyl)-piperazine-1-carbonyl]-pyrrolidin-3-yl}-3-chloro-benzamide | 4.3 mg, 6.4% | C(C1=CC=CC=C1)N1C[C@H](C[C@H]1C(=O)N1CCN(CC1)C1=C(C=CC=C1)C#N)NC(C1=CC(=CC=C1)Cl)=O | C30H30ClN5O2
